US08895761B2
Silver nitrate (166 g, 0.982 mol) is added to a stirred mixture of (1R*,5S*)-2,3,4,4-tetrachloro-1-methyl-8-oxabicyclo[3.2.1]octa-2,6-diene (83 g, 0.32 mol), acetone (1500 ml) and water (1500 ml) and the mixture is heated at 65° C. for 16 hours. The reaction mixture is cooled to room temperature, and a saturated solution of aqueous sodium bicarbonate is added to adjust the pH to 7-8. The mixture is filtered through a plug of diatomaceous earth, and the filtrate is concentrated under reduced pressure to remove most of the acetone. The aqueous mixture is extracted with ethyl acetate (3×500 ml) and the organic extracts are combined, dried over anhydrous sodium sulfate, filtered and the filtrate is evaporated. The residue is purified by column chromatography on silica gel to give (1R*,5S*)-3,4-dichloro-5-methyl-8-oxabicyclo[3.2.1]octa-3,6-dien-2-one (29.5 g) as a yellow oil.

reactant | (1R*,5S*)-2,3,4,4-tetrachloro-1-methyl-8-oxabicyclo[3.2.1]octa-2,6-diene | 0.32 mol, 83 g | ClC=1[C@]2(C=C[C@@H](C(C1Cl)(Cl)Cl)O2)C | C8H6Cl4O
reactant | acetone | 1500 ml | CC(=O)C | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Silver nitrate | 0.982 mol, 166 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 1500 ml | O | H2O
product | (1R*,5S*)-3,4-dichloro-5-methyl-8-oxabicyclo[3.2.1]octa-3,6-dien-2-one | 29.5 g | ClC=1C([C@H]2C=C[C@@](C1Cl)(O2)C)=O | C8H6Cl2O2
